US07235537B2
Step A: [6-(4-Bromo-2-chloro-phenylamino)-7-fluoro-3-(2-methanesulfonyl-ethyl)-3H-benzoimidazol-5-yl]-methanol 10y
6-(4-Bromo-2-chloro-phenylamino)-7-fluoro-3-(2-methanesulfonyl-ethyl)-3H-benzoimidazole-5-carboxylic acid methyl ester 11cc (0.300 g, 0.594 mmol) is suspended in a mixture of EtOH (6 mL) and THF (4 mL) under N2. NaBH4 (0.112 g, 2.97 mmol) is added. After approximately 4 days stirring, reaction mixture is quenched by the addition of AcOH until the reaction mixture reaches pH 7. The reaction mixture is concentrated to dryness under reduced pressure and the residue partitioned between ethyl acetate and water. The layers are separated and the organic layer is washed with water (3×), brine, and dried (Na2SO4). The organic layer is concentrated under reduced pressure until a white precipitate forms which is collected by filtration to give 0.225 g (79%) clean desired product: LC/MS ESI (+) m/z 478, 476 (M+ Br pattern) detected.

reactant | 6-(4-Bromo-2-chloro-phenylamino)-7-fluoro-3-(2-methanesulfonyl-ethyl)-3H-benzoimidazole-5-carboxylic acid methyl ester | 0.594 mmol, 11cc, 0.300 g | COC(=O)C1=CC2=C(N=CN2CCS(=O)(=O)C)C(=C1NC1=C(C=C(C=C1)Br)Cl)F | C18H16BrClFN3O4S
reactant | NaBH4 | 2.97 mmol, 0.112 g | [BH4-].[Na+]
solvent | EtOH | 6 mL | CCO | C2H6O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | [6-(4-Bromo-2-chloro-phenylamino)-7-fluoro-3-(2-methanesulfonyl-ethyl)-3H-benzoimidazol-5-yl]-methanol | 0.225 g, 79% | BrC1=CC(=C(C=C1)NC=1C(=CC2=C(N=CN2CCS(=O)(=O)C)C1F)CO)Cl | C17H16BrClFN3O3S
